US08476425B1
combining tazobactam acid, arginine and a solvent, such that a solution of tazobactam arginine is formed; and

reactant | tazobactam acid | C[C@@]1([C@@H](N2[C@H](S1(=O)=O)CC2=O)C(=O)O)CN3C=CN=N3 | C10H12N4O5S
reactant | arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
product | tazobactam arginine | C[C@@]1([C@@H](N2[C@H](S1(=O)=O)CC2=O)C(=O)O)CN3C=CN=N3.N[C@@H](CCCNC(N)=N)C(=O)O | InChI=1S/C10H12N4O5S.C6H14N4O2/c1-10(5-13-3-2-11-12-13)8(9(16)17)14-6(15)4-7(14)20(10,18)19;7-4(5(11)12)2-1-3-10-6(8)9/h2-3,7-8H,4-5H2,1H3,(H,16,17);4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t7-,8+,10+;4-/m10/s1
